US07629375B2
A solution of 5-{2-[3,4-bis(methoxymethoxy)phenyl]vinyl}-[2,2′]bipyridinyl (0.85 g, 2.246 mmol), concentrated hydrochloric acid (5 mL) and water (2 mL) in methanol (100 mL) was stirred under argon atmosphere at room temperature for 15 hoursw. Water (50 mL) was added to the mixture and methanol was rotary evaporated. More water (100 mL) was added and the resulting mixture was neutralized to pH 7 with sodium hydroxide solution. The solid precipitate was collected by filtration and washed with water and a mixed solvent of hexane and EtOAc (3:1, v/v). The resulting orange solid was dried under high vacuum giving 0.5559 g of 5-{2-[3,4-dihydroxyphenyl]vinyl}-[2,2′]bipyridinyl (1.915 mmol, yield 85.3%) as a Z/E mixture. 1H NMR (MeOH, 300.16 MHz): 8.71 (d, J=1.7 Hz, 0.70H), 8.65-8.62 (m, 1.56H), 8.51 (d, J=1.4 Hz, 1.03H), 8.31-8.23 (m, 2.29H), 8.16 (d, J=8.3 Hz, 1.00H), 8.0 (dd, J=2.0 Hz, 0.78H), 7.94-7.89 (m, 1.63H), 7.80 (dd, J=8.2 & 2.0 Hz, 1.04H), 7.44-7.40 (m, 1.52H), 7.23 (d, J=16.4 Hz, 0.74H), 7.08 (d, J=1.8 Hz, 0.71H), 7.00 (d, J=16.4 Hz, 0.74H), 6.95 (dd, J=8.2 & 1.8 Hz, 0.70H), 6.77 (d, J=8.2 Hz, 0.74H), 6.72-6.67 (m, 2.80H), 6.61 (dd, J=8.1 & 1.5 Hz, 1.01H), 6.47 (d, J=12.1 Hz, 1.00H). UV-Vis (MeOH): Emax=252 nm, 288 nm and 352 nm. MS (ESI) m/z: 291 (M+1)+.

reactant | 5-{2-[3,4-bis(methoxymethoxy)phenyl]vinyl}-[2,2′]bipyridinyl | 2.246 mmol, 0.85 g | COCOC=1C=C(C=CC1OCOC)C=CC=1C=CC(=NC1)C1=NC=CC=C1 | C22H22N2O4
reactant | hydrochloric acid | 5 mL | Cl | ClH
reactant | water | 2 mL | O | H2O
reactant | Water | 50 mL | O | H2O
reactant | water | 100 mL | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | 5-{2-[3,4-dihydroxyphenyl]vinyl}-[2,2′]bipyridinyl | 1.915 mmol, 0.5559 g, yield 85.3% | OC=1C=C(C=CC1O)C=CC=1C=CC(=NC1)C1=NC=CC=C1 | C18H14N2O2
